US05240938
Step A: Preparation of 2-trimethylsilyloxy-2-(2-methylphenyl)acetonitrile
To a solution of 1.00 g (8.33 mmol) of 2-methylbenzaldehyde dissolved in 20 mL of dichloromethane was added 1.33 mL (10.0 mmol) trimethylsilylcyanide, 1-2 mg of potassium cyanide, 1-2 mg of 18-crown-6, and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was then diluted into diethyl ether, washed with 5% NaHCO3, brine, dried (MgSO4), filtered and evaporated. The residual oil was used directly in the next step.

reactant | 2-methylbenzaldehyde | 8.33 mmol, 1.00 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | trimethylsilylcyanide | 10.0 mmol, 1.33 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | potassium cyanide | 1-2 mg | [C-]#N.[K+]
reactant | 18-crown-6 | 1-2 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-trimethylsilyloxy-2-(2-methylphenyl)acetonitrile | C[Si](OC(C#N)C1=C(C=CC=C1)C)(C)C | C12H17NOSi
